US07109229B2
To a mixture of (1,5-dimethyl-1H-indol-7-yl)-oxo-acetic acid methyl ester (0.51 g, 2.21 mmol) and 2-(1H-indol-3-yl-acetamide (0.35 g, 2 mmol) in DMF (20 mL) was added a solution of potassium tert-butoxide in THF (1.0 M, 8.0 mL, 8.0 mmol) at room temperature. The reaction mixture was heated at 50° C. for 18 h, cooled to room temperature, and quenched with hydrochloric acid (1.0 N). After 30 min at room temperature, the mixture was extracted with ethyl acetate and the extract washed with water, saturated aqueous sodium bicarbonate and brine, dried (sodium sulfate), filtered and concentrated. Flash column chromatography on silica gel eluting with chloroform and acetone gave 3-(1,5-dimethyl-1H-indol-7-yl)-4-(1H-indol-3-yl]-pyrrole-2,5-dione (400 mg, 56.3%). 1HNMR (DMSO-d6, 400 MHz) 2.28 (s, 3H), 3.64 (s, 3H), 6.39 (d, J=3.07 Hz, 1H), 6.50 (t, J=7.66 Hz, 1H), 6.53 (t, J=7.00 Hz, 1H), 6.74 (d, J=1.4 Hz, 1H), 7.0 (t, J=7.47 Hz, 1H), 7.20 (d, J=3.09 Hz, 1H), 7.35 (d, J=8.11 Hz, 1H), 7.41 (s, 1H), 7.88 (d, J=3.0 Hz, 1H), 11.13 (s, 1H), 11.84 (s, 1H); MS (ES, m/z): C22H17N3O2: 356.2 (M++1); 354.2 (M+−1).

reactant | (1,5-dimethyl-1H-indol-7-yl)-oxo-acetic acid methyl ester | 2.21 mmol, 0.51 g | COC(C(=O)C=1C=C(C=C2C=CN(C12)C)C)=O | C13H13NO3
reactant | 1H-indol-3-yl-acetamide | 2 mmol, 0.35 g | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 8.0 mmol, 1.0 M, 8.0 mL | C1CCOC1 | C4H8O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(1,5-dimethyl-1H-indol-7-yl)-4-(1H-indol-3-yl]-pyrrole-2,5-dione | 400 mg, 56.3% | CN1C=CC2=CC(=CC(=C12)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O)C | C22H17N3O2
